US07439249B2
1M LAH in THF (103 ml) is cooled to 0° C. A solution of 6-(tert-Butyl-dimethyl-silanyloxy)-1H-indole-2-carboxylic acid (6.0 g, 20.60 mmol) in THF (30 ml) is added slowly. The reaction is stirred at room temperature for two days, quenched with water (10 ml), 1N NaOH (10 ml) and water (20 ml). To the mixture MgSO4 is added. The mixture is filtered, washed with 10% methanol in ethyl acetate (200 ml). The filtrate is concentrated to oil. The crude is purified by column chromatography (20% ethyl acetate in hexanes) to provide [6-(tert-Butyl-dimethyl-silanyloxy)-1H-indol-2-yl]-methanol (2.30 g, 40% yield). 1H NMR (400 MHz, DMSO-d6): δ 10.72 (s,1H) , 7.28 (d, 1H), 6.76 (s,1H), 6.50 (m,1H), 6.16 (s,1H), 5.13 (t, 1H), 4.52 (d, 2H), 0.96 (s, 9H), 0.17 (s, 6H).

reactant | LAH | 1M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 6-(tert-Butyl-dimethyl-silanyloxy)-1H-indole-2-carboxylic acid | 20.60 mmol, 6.0 g | C(C)(C)(C)[Si](OC1=CC=C2C=C(NC2=C1)C(=O)O)(C)C | C15H21NO3Si
solvent | THF | 103 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | [6-(tert-Butyl-dimethyl-silanyloxy)-1H-indol-2-yl]-methanol | 2.30 g, 40% yield | C(C)(C)(C)[Si](OC1=CC=C2C=C(NC2=C1)CO)(C)C | C15H23NO2Si
